US08106190B2
Pyridine and trifluoroacetic anhydride were added to a dioxane solution of 4-tert-butyl-2-fluorobenzamide and stirred at room temperature for 3 hours. By post-treating the reaction liquid, 4-tert-butyl-2-fluorobenzonitrile was obtained.

reactant | Pyridine | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-tert-butyl-2-fluorobenzamide | C(C)(C)(C)C1=CC(=C(C(=O)N)C=C1)F | C11H14FNO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-tert-butyl-2-fluorobenzonitrile | C(C)(C)(C)C1=CC(=C(C#N)C=C1)F | C11H12FN
